US07671195B2
WO 92/19607 reports that a dibenzothiazepine derivative can be prepared by the steps of reacting 2-amino-thiophenol with 2-fluorobenzonitrile to give 2-(2-amino-phenylthio)benzonitrile, hydrolyzing the resultant compound to give 2-(2-carboxyphenylthio)aniline, and finally cyclizing the aniline derivative.

reactant | dibenzothiazepine | C1=CC=CC2=C1C1=C(C=NS2)C=CC=C1 | C13H9NS
reactant | 2-amino-thiophenol | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
product | 2-(2-amino-phenylthio)benzonitrile | NC1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C13H10N2S
